* c:\users\lenovo\esim-workspace\schmitt_trigger\schmitt_trigger.cir

.include PMOS-180nm.lib
.include NMOS-180nm.lib
m3 net-_m3-pad1_ in net-_m3-pad3_ net-_m3-pad1_ CMOSP W=100u L=100u M=1
m4 net-_m3-pad3_ in out net-_m3-pad3_ CMOSP W=100u L=100u M=1
m1 out in net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m2 net-_m1-pad3_ in net-_m2-pad3_ net-_m2-pad3_ CMOSN W=100u L=100u M=1
m6 net-_m6-pad1_ out net-_m1-pad3_ net-_m1-pad3_ CMOSN W=100u L=100u M=1
m5 net-_m3-pad3_ out gnd net-_m3-pad3_ CMOSP W=100u L=100u M=1
v2  net-_m3-pad1_ gnd 1.8
v3  net-_m6-pad1_ net-_m2-pad3_ 1.8
* u2  out plot_v1
* u1  in plot_v1
v1  in gnd 1.8
.op

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(out)
plot v(in)
.endc
.end
